US04147873
To a solution of 2-vinylglutamic acid (350 mg, 2 mM) in 5 ml of 1 N sodium hydroxide at 0° C. are added simultaneously from 2 syringes acetyl chloride (160 mg) diluted in dioxane (1 ml) and 2 ml of 1 N sodium hydroxide. After 30 minutes at 0° the solution is acidified by the addition of 3 N hydrochloric acid, then extracted well with dichloromethane. The organic phase is dried and concentrated to afford N-acetyl-2-vinylglutamic acid.

reactant | 2-vinylglutamic acid | 2 mM, 350 mg | C(=C)[C@](N)(CCC(=O)O)C(=O)O | C7H11NO4
reactant | acetyl chloride | 160 mg | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | sodium hydroxide | 1 N, 5 ml | [OH-].[Na+]
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
product | N-acetyl-2-vinylglutamic acid | C(C)(=O)N[C@@](CCC(=O)O)(C(=O)O)C=C | C9H13NO5
